US08937078B2
Step C: Preparation of 1-(6,7-dimethoxy-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid.
A mixture of 1-(6,7-dimethoxy-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (0.28 g, 0.81 mmol), 1M aq. KOH (3.0 mL) and THF (3.0 mL) was stirred for 4 h. The mixture was concentrated to remove the THF and the aqueous residue was acidified to pH 2 with 1M aq. HCl. The resulting precipitate was collected by filtration to provide the titled compound (0.23 g, 89%). MS (ESI): mass calcd. for C14H12N4O5, 316.3; m/z found, 317.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 13.32-12.29 (br m, 2H), 8.90 (s, 1H), 8.22 (s, 1H), 7.47 (s, 1H), 7.19 (s, 1H), 3.93 (s, 3H), 3.89 (s, 3H).

reactant | 1-(6,7-dimethoxy-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.81 mmol, 0.28 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC(=C(C=C2C(N1)=O)OC)OC | C16H16N4O5
reactant | KOH | 1M, 3.0 mL | [OH-].[K+]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 1-(6,7-dimethoxy-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid | 0.23 g, 89% | COC=1C=C2C(NC(=NC2=CC1OC)N1N=CC(=C1)C(=O)O)=O | C14H12N4O5
